2154-06-25 07:42:00 Physician Resident Progress Note
Chief Complaint: dyspnea
   24 Hour Events:
   placed on bipap, mental status began to clear, placed back on nasal
   cannula
   family wants to focus therapy on comfort
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2154-6-25**] 05:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Flowsheet Data as of  [**2154-6-25**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 118 (111 - 123) bpm
   BP: 128/57(74) {86/39(53) - 135/57(74)} mmHg
   RR: 31 (23 - 32) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,186 mL
                                                                    126 mL
   PO:
             TF:
   IVF:
                                                                  1,186 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                    460 mL
                                                                    300 mL
   Urine:
                                                                    460 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    726 mL
                                                                   -174 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (550 - 550) mL
   PS : 12 cmH2O
   PEEP: 0 cmH2O
   FiO2: 100%
   SpO2: 92%
   ABG: 7.11/95.[**Numeric Identifier 143**]/76.[**Numeric Identifier 126**]//-2
   Ve: 12.2 L/min
   PaO2 / FiO2: 76
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   L base, Wheezes : bilateral and diffuse, Rhonchorous: scattered
   throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
        [image002.jpg]
                             [**2154-6-24**]  03:02 PM
   TCO2
   33
   Other labs: Lactic Acid:2.3 mmol/L
   Microbiology: [**6-24**] blood cx and urine cx p
   Assessment and Plan
   A/P: 70 yo M with a history of recently diagnosed, widely metastatic
   non-small cell lung cancer with mets to the brain, liver, adrenals and
   bone admitted with progressive hypoxia and hypercarbic respiratory
   failure.
   # Hypoxia and hypercarbic respiratory failure. Potentially secondary to
   both enlarging tumor burden +/- lypmhangitic spread vs. infection.
   -could also be post obstructive pneumonia and COPD exacerbation
   -patient has pursed lips upon breathing and CO2 retention so will treat
   for COPD exacerbation and will treat with broad spectrum abx for ?
   pneumonia
   -levofloxacin for COPD flare and d/c vanc / zosyn
   -cough suppressant
   -focusing care on comfort and shortness of breath is only complaint-
   prn morphine for shortness of breath
   # Code status:  DNR / DNI, focusing on comfort but will discuss final
   plans with palliative care and then onc if family would like
   # Contact: HCP [**Name (NI) 759**] (c) [**Telephone/Fax (1) 760**]; Dalilah (c) [**Telephone/Fax (1) 761**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-6-24**] 02:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:ICU

2154-06-25 10:31:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yo man with widely metastatic NSCLC admitted yesterday in resp
   distress, severely hypoxemic, hypercarbic resp failure.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2154-6-25**] 05:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: Dyspnea, Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2154-6-25**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.2
   HR: 123 (111 - 123) bpm
   BP: 138/63(75) {86/39(53) - 138/63(75)} mmHg
   RR: 29 (23 - 32) insp/min
   SpO2: 92% on 6L NC
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,186 mL
                                                                    151 mL
   PO:
             TF:
   IVF:
                                                                  1,186 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                    460 mL
                                                                    460 mL
   Urine:
                                                                    460 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    726 mL
                                                                   -309 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (550 - 550) mL
   PS : 12 cmH2O
   PEEP: 0 cmH2O
   FiO2: 100%
   SpO2: 95%
   ABG: 7.11/95.[**Numeric Identifier 143**]/76.[**Numeric Identifier 126**]//-2
   Ve: 12.2 L/min
   PaO2 / FiO2: 76
   Physical Examination
   General Appearance: Well nourished, pursed lip breathing, dyspneic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : tight wheezes,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Clubbing, no edema, toenail clubbing
   Skin:  Warm, skin mets on left side of face
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
        [image002.jpg]
                             [**2154-6-24**]  03:02 PM
   TCO2
   33
   Other labs: Lactic Acid:2.3 mmol/L
   Assessment and Plan
   Advanced, rapidly progressive lung cancer with radiographic e/o
   lymphangitic spread and airway compression with bilateral mainstem
   malacia as well, COPD, pleural effusion. In resp distress, though sig
   improved since last night. Mental status improved. Obvious dyspnea.
   Unlikely to benefit from xrt or stenting from a palliation perspective
   and I rec continued palliation with morphine and anxiolytics as well as
   empiric treatment for COPD exacerbation with steroids/abx, but will
   discuss this with pt's family including HCP.
   ICU [**Name2 (NI) 81**]
   Lines:
   18 Gauge - [**2154-6-24**] 02:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 30
   Critically ill with resp distress
   Addendum:
   Met with family to discuss clinical status and likely progression.
   Answered their questions regarding symptom management, plans, likely
   clinical course, discussion of whether to attempt to get Mr [**Known lastname 764**] home
   or keep him in an inpatient supported setting. Goal will likely be
   inpatient hospice or inpatient hospital with palliative care
   consultation. Will ask palliative care, case management for assistance.
   15 minutes.

2154-06-26 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2154-6-25**] 09:30 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2154-6-26**] 03:27 AM
   Morphine Sulfate - [**2154-6-26**] 03:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-6-26**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 121 (112 - 131) bpm
   BP: 137/65(82) {107/52(68) - 149/73(91)} mmHg
   RR: 23 (20 - 32) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    334 mL
                                                                     50 mL
   PO:
             TF:
   IVF:
                                                                    334 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,045 mL
                                                                    180 mL
   Urine:
                                                                  1,045 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -711 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   330 K/uL
   9.1 g/dL
   173 mg/dL
   1.5 mg/dL
   28 mEq/L
   4.2 mEq/L
   52 mg/dL
   97 mEq/L
   137 mEq/L
   27.5 %
   16.5 K/uL
        [image002.jpg]
                             [**2154-6-24**]  03:02 PM
                             [**2154-6-25**]  12:12 PM
   WBC
   16.5
   Hct
   27.5
   Plt
   330
   Cr
   1.5
   TCO2
   33
   Glucose
   173
   Other labs: PT / PTT / INR:15.2/24.1/1.3, ALT / AST:64/74, Alk Phos / T
   Bili:111/0.3, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.3 mmol/L, LDH:600 IU/L, Ca++:8.6
   mg/dL, Mg++:2.5 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   A/P: 70 yo M with a history of recently diagnosed, widely metastatic
   non-small cell lung cancer with mets to the brain, liver, adrenals and
   bone admitted with progressive hypoxia and hypercarbic respiratory
   failure.
   # Hypoxia and hypercarbic respiratory failure. Potentially secondary to
   both enlarging tumor burden +/- lypmhangitic spread vs. infection.
   -could also be post obstructive pneumonia and COPD exacerbation
   -patient has pursed lips upon breathing and CO2 retention so will treat
   for COPD exacerbation and will treat with broad spectrum abx for ?
   pneumonia
   -levofloxacin for COPD flare and d/c vanc / zosyn
   -cough suppressant
   -focusing care on comfort and shortness of breath is only complaint-
   prn morphine for shortness of breath
   # Code status:  DNR / DNI, focusing on comfort but will discuss final
   plans with palliative care and then onc if family would like
   # Contact: HCP [**Name (NI) 759**] (c) [**Telephone/Fax (1) 760**]; Dalilah (c) [**Telephone/Fax (1) 761**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-6-24**] 02:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:

2154-06-26 11:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Palliative care met with the patient/family yesterday.
   This AM, pt complaining of some chest congestion.
   History obtained from Patient, Family / Friend
   Allergies:
   [**Name2 (NI) **] Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2154-6-25**] 09:30 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2154-6-26**] 03:27 AM
   Morphine Sulfate - [**2154-6-26**] 03:27 AM
   Pantoprazole (Protonix) - [**2154-6-26**] 08:00 AM
   Other medications:
   Protonix, prednisone, Levofloxacin, Tessalon, morphine (pt refuses)
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: Tachypnea, chest congestion
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Genitourinary: No(t) Dysuria
   Flowsheet Data as of  [**2154-6-26**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.6
C (96
   HR: 127 (112 - 131) bpm
   BP: 136/61(81) {118/52(68) - 150/73(91)} mmHg
   RR: 26 (20 - 32) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    334 mL
                                                                     50 mL
   PO:
             TF:
   IVF:
                                                                    334 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,045 mL
                                                                    420 mL
   Urine:
                                                                  1,045 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -711 mL
                                                                   -370 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Bibasilar, Wheezes : B/L)
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   330 K/uL
   173 mg/dL
   1.5 mg/dL
   28 mEq/L
   4.2 mEq/L
   52 mg/dL
   97 mEq/L
   137 mEq/L
   27.5 %
   16.5 K/uL
        [image002.jpg]
                             [**2154-6-24**]  03:02 PM
                             [**2154-6-25**]  12:12 PM
   WBC
   16.5
   Hct
   27.5
   Plt
   330
   Cr
   1.5
   TCO2
   33
   Glucose
   173
   Other labs: PT / PTT / INR:15.2/24.1/1.3, ALT / AST:64/74, Alk Phos / T
   Bili:111/0.3, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.3 mmol/L, LDH:600 IU/L, Ca++:8.6
   mg/dL, Mg++:2.5 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   70 yo with diffusely metastatic NSCLC p/w respiratory failure.
   1.) Respiratory failuire:  Status remains stable.
             -Continue zosyn/levoflox
            -Mucinex for secretions, avoid mucomyst nebs due to risk of
   bronchospasm
   2.) Abd distension:  No BM x 2-3 days
            -Increase bowel regimen
   3.) Goals:  Per family, focus should be on patient's comfort.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-6-24**] 02:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2154-06-27 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   none
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2154-6-25**] 09:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-6-26**] 08:00 AM
   Lorazepam (Ativan) - [**2154-6-27**] 12:01 AM
   Morphine Sulfate - [**2154-6-27**] 04:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-6-27**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.6
C (96
   HR: 130 (116 - 132) bpm
   BP: 155/68(90) {120/57(73) - 155/68(90)} mmHg
   RR: 19 (18 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                     50 mL
                  PO:
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                    960 mL
                                                                    720 mL
   Urine:
                                                                    960 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -910 mL
                                                                   -720 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   Diffuse wheezing on pulmonary exam are transmitted upper airway
   sounds.  Card RRR, no m/r/g.  Somnolent.
   Labs / Radiology
   330 K/uL
   9.1 g/dL
   173 mg/dL
   1.5 mg/dL
   28 mEq/L
   4.2 mEq/L
   52 mg/dL
   97 mEq/L
   137 mEq/L
   27.5 %
   16.5 K/uL
        [image002.jpg]
                             [**2154-6-24**]  03:02 PM
                             [**2154-6-25**]  12:12 PM
   WBC
   16.5
   Hct
   27.5
   Plt
   330
   Cr
   1.5
   TCO2
   33
   Glucose
   173
   Other labs: PT / PTT / INR:15.2/24.1/1.3, ALT / AST:64/74, Alk Phos / T
   Bili:111/0.3, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.3 mmol/L, LDH:600 IU/L, Ca++:8.6
   mg/dL, Mg++:2.5 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   A/P: 70 yo M with a history of recently diagnosed, widely metastatic
   non-small cell lung cancer with mets to the brain, liver, adrenals and
   bone admitted with progressive hypoxia and hypercarbic respiratory
   failure.
   # Hypoxia and hypercarbic respiratory failure: due to diffusely
   metastatic lung cancer as well as COPD flare.
   -CMO, treat COPD flare and morphine for comfort (SOB)
   # Code status:  DNR / DNI, focusing on comfort; follow up palliative
   care recs
   # Contact: HCP [**Name (NI) 759**] (c) [**Telephone/Fax (1) 760**]; Dalilah (c) [**Telephone/Fax (1) 761**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-6-24**] 02:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.  Appears comfortable.
   Not responsive.
   ------ Protected Section Addendum Entered By:[**Name (NI) 457**] [**Last Name (NamePattern1) **], MD
   on:[**2154-6-27**] 17:18 ------